2165-01-14 07:34:00 Physician Attending Progress Note
Chief Complaint: PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 70 yo man with history of DM, ESRD but initially refusing HD, CHF
   EF 30% initially admitted [**2164-1-11**] with hypoglycemia (FSBG 38)  acute on
   chronic renal failure.  On [**1-13**] in the PM he was acutely found to be
   unresponsive and a code was called.  He was found to be in PEA arrest
   and received epinephrine 1mg IV and CPR for less than 5 minutes with
   return of spontaneous circulation.  Post- arrest he was alert and
   oriented x3 with BP 220/110, so cooling was not initiated.  He was
   transferred to the ICU for further management.
   24 Hour Events:
 FSBG 182 on arrival to MICU, K returned 5.2 (from 4.4) post arrest
complained of some anterior chest pain overnight which resolved.  12
   lead EKG unchanged from prior.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-1-14**] 12:09 AM
   Other medications:
   Amlodipine 10mg daily
   ASA 325mg daily
   Atorvastatin 40mg daily
   Calcitriol 0.25 mcg daily
   Famotidine 20mg q24hr
   Furosemide 80mg IV TID
   RISS
   Metolazone 5mg [**Hospital1 7**]
   Metoprolol XL 25mg daily
   Morphine and percocet prn
   Acetaminophen prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 71 (68 - 91) bpm
   BP: 167/56(85) {130/45(72) - 168/82(92)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     29 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                     29 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    115 mL
                                                                    430 mL
   Urine:
                                                                    115 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -87 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress.  Anasarcic.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: L BKA.
   Respiratory / Chest: crackles left chest
   Abdominal: Soft, Non-tender, Bowel sounds present.  Edematous scrotum
   and penis, circumcised.  No areas of skin breakdown
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: alert and oriented x3.  Complaining of scrotal pain
   Labs / Radiology
   8.2 g/dL
   230 K/uL
   152 mg/dL
   11.5 mg/dL
   18 mEq/L
   4.5 mEq/L
   115 mg/dL
   105 mEq/L
   142 mEq/L
   27.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2165-1-14**]  02:08 AM
   WBC
   9.8
   Hct
   27.0
   Plt
   230
   Cr
   11.5
   TropT
   0.92
   Glucose
   152
   Other labs: PT / PTT / INR:14.1/30.5/1.2, CK / CKMB /
   Troponin-T:399/12/0.92, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:7.4 mg/dL
   Troponin 0.51/CK 299 prior
   CXR: L>R pleural effusion withpulmonary vascular congestion
   Assessment and Plan
   70 yo male with ESRD, CHF (EF 30%), DM2, admitted to ICU for PEA arrest
   of unclear etiology.  Possibilities include hyperkalemia, acidosis,
   possible aspiration.
   #PEA arrest
   -getting HD line placed for initiation of HD today
   -no apparent neurologic deficits, no indication for cooling
   -no VBG or ABG checked
   -continue to closely monitor electrolytes
   #hypoxemia
   -may be related to volume overload with bilateral effusions and
   pulmonary vascular congestion
   -HD today with volume removal
   -supplemental oxygen to keep O2 sat>93% given episode of chest
   discomfort
   #ESRD
   -HD catheter placement as above
   #DM II
   -hypoglycemia resolved
   # HTN: restarting BP meds today
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   22 Gauge - [**2165-1-13**] 09:14 PM
   18 Gauge - [**2165-1-13**] 10:12 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: no indication for PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU until HD performed
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan with the following emphasis/modifications:
   70 year old male with the history and presentation as above.
   Overnight, he remarkably improved after the above code and is awake and
   talkative on rounds.  He has no complaints.
   T 36.7  P 71  BP 160/80  RR 10 Sat: 99%
   Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NTND
   Ext: bilateral edema
   Labs: As above
   Assessment/Plan:
   1) Unresponsive episode
 unclear etiology of the above episode but
   patient currently alert and oriented and with no complaints.  It is
   plausible that this was a vagal response and that patient never
   actually lost pulses as evidenced by rapid improvement without need for
   intubation.   [**Month (only) 51**] also have had some contributions from the acidosis or
   even hyperkalemia but post-event levels were not significant enough to
   explain event so unlikely
   2) ESRD
 needs hemodialysis
 went down for line placement and will
   have dialysis
   3) DM
   4) Will transfer to floor if continues to remain stable
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2165-1-14**] 21:01 ------

2165-01-16 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2165-1-15**] 09:51 AM
 SPUTUM CULTURE - At [**2165-1-15**] 09:51 AM
   Nauseaus overnight received compazine. Didinot sleep well. more sleepy
   this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2165-1-16**] 06:45 AM
   Heparin Sodium (Prophylaxis) - [**2165-1-16**] 07:34 AM
   Other medications:
   Vanco, famotidine, calcium acetate, calcium, [**Last Name (LF) 12878**], [**First Name3 (LF) 5**],
   chlorhexidine, cefepime, lopressor 125.5 [**Hospital1 **] held due to nausea,
   insuiln sliding, hydralazine 20 iv.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-16**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 87 (67 - 89) bpm
   BP: 160/59(95) {0/0(0) - 0/0(0)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 91 kg
                  Total In:
                                                                    878 mL
                  PO:
                                                                    420 mL
                  TF:
   IVF:
                                                                    178 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  3,135 mL
                                                                    385 mL
   Urine:
                                                                  1,085 mL
                                                                    285 mL
   NG:
                                                                     50 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,257 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 833 (833 - 833) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL, surgical pupil Left, cataract right
   Head, Ears, Nose, Throat: Normocephalic, adentulous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: Absent, s/p Left BKA
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.8 g/dL
   212 K/uL
   194 mg/dL
   7.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   64 mg/dL
   102 mEq/L
   142 mEq/L
   27.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2165-1-14**]  02:08 AM
                             [**2165-1-14**]  02:50 PM
                             [**2165-1-14**]  10:00 PM
                             [**2165-1-15**]  12:15 AM
                             [**2165-1-15**]  09:06 AM
                             [**2165-1-15**]  04:26 PM
                             [**2165-1-16**]  12:51 AM
   WBC
   9.8
   6.9
   8.1
   9.9
   Hct
   27.0
   22.7
   29.3
   29.3
   27.6
   Plt
   230
   174
   194
   212
   Cr
   11.5
   9.1
   9.5
   7.6
   TropT
   0.92
   1.06
   0.92
   0.93
   TCO2
   23
   Glucose
   152
   128
   135
   147
   194
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:472/9/0.93, ALT / AST:25/18, Alk Phos / T Bili:185/0.5,
   Amylase / Lipase:38/16, Differential-Neuts:86.8 %, Lymph:6.9 %,
   Mono:3.4 %, Eos:2.8 %, Albumin:2.9 g/dL, LDH:231 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: none new
   Microbiology: cultures negative to date
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): improved s/p toradol
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): HD today,
   continue BP control with hydral prn, and low dose lopressor if he can
   swallow.
Nausea: will cycle enzymes, EKG shows some anterior TWI, likely post
   HD reaction.
Altered mental status: ? related to lack of sleep overnight, may also
   be secondary to compazine. On broad spectrum antibiotitcs for
   presumpting Pneumonia. ABG shows mild CO2 retention liekly c/w OSA..
   will need sleep study as outpatient.
Aspiration pneumonia: Will contineu antibitoics pending cx finalized
   x48hours. Will consult SLP.
   Will consider transfer to floor when mental status clears later today.
   ICU Care
   Nutrition:
   Comments: SLP eval
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2165-1-14**] 07:45 PM
   Arterial Line - [**2165-1-14**] 07:58 PM
   18 Gauge - [**2165-1-15**] 12:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, had nausea and vomiting.  Had another episode of
   unresponsiveness this morning that resolved when fellow/residents
   entered the room
   T 37.8   HR 87   BP 160/59  RR 11  Sat: 100%
   Sleepy but easily arouseable and oriented x3
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Labs: as above
   Assessment:
   1) Unresponsiveness: unclear etiology
 previous events had prior
   administration of percocet
   2) Vomiting
 no abdominal pain and unclear etiology but has been
   intermittent for a few days
   3) Pulmonary Edema/fluid overload
   4) ESRD
   Plan:
   1) CT scan to rule out obstruction or other cause of vomiting
   2) HD
   3) EEG
   4) Keep in ICU for now for monitoring given his repeated episodes of
   unresponsiveness.  Hold any narcotics and treat his underlying
   pulmonary edema/HF with hemodialysis
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2165-1-16**] 18:10 ------

2165-01-18 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2165-1-17**] 09:38 AM
   pt placed on a continuous eeg
   - CXR showed tracheal deviation concerning for enlarging thyroid mass.
   Rec CT-chest and thyroid U/S. Pt initially refused, but son spoke with
   him and now agreeable.  Will likely go tomorrow
   - TSH 4.9
   - patient mental status improved and very interactive. Arguing with
   staff.
   - Pt tolerated CPAP overnight
   - Upper ext U/S still pending
   -On continuous EEG monitoring by Neuro
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-1-17**] 01:00 AM
   Erythromycin - [**2165-1-17**] 04:48 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-1-17**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-18**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 70 (70 - 82) bpm
   BP: 160/59(95) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 91 kg
   Height: 64 Inch
                  Total In:
                                                                    700 mL
                                                                    240 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                    180 mL
   Urine:
                                                                    680 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,980 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, L eye with cataracts
   Head, Ears, Nose, Throat: Normocephalic, edentulous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: clear
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, improving scrotal edema
   Skin:  Warm
   Neurologic: Attentive, A&O x3
   Labs / Radiology
   193 K/uL
   7.9 g/dL
   180 mg/dL
   5.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   49 mg/dL
   99 mEq/L
   140 mEq/L
   25.2 %
   9.0 K/uL
        [image002.jpg] Sputum GNRods
                             [**2165-1-14**]  10:00 PM
                             [**2165-1-15**]  12:15 AM
                             [**2165-1-15**]  09:06 AM
                             [**2165-1-15**]  04:26 PM
                             [**2165-1-16**]  12:51 AM
                             [**2165-1-16**]  09:40 AM
                             [**2165-1-16**]  10:13 AM
                             [**2165-1-16**]  03:13 PM
                             [**2165-1-17**]  05:13 AM
                             [**2165-1-18**]  03:02 AM
   WBC
   6.9
   8.1
   9.9
   9.6
   9.0
   Hct
   22.7
   29.3
   29.3
   27.6
   27.2
   25.2
   Plt
   174
   194
   212
   218
   193
   Cr
   9.1
   9.5
   7.6
   5.3
   5.9
   TropT
   0.92
   0.93
   0.88
   TCO2
   23
   31
   34
   Glucose
   128
   135
   147
   194
   134
   180
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:541/7/0.88, ALT / AST:24/31, Alk Phos / T Bili:207/0.5,
   Amylase / Lipase:38/16, Differential-Neuts:86.8 %, Lymph:6.9 %,
   Mono:3.4 %, Eos:2.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:231 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Imaging: Thyroid US: Pending
   LUE US: Pending
   Assessment and Plan
   70 yo male with ESRD, CHF (EF 30%), DM2, here for [**Last Name (un) **] on CKD5 and
   hypoglycemia who is s/p PEA arrest now w/intermittent MS changes,
   pneumonia
   # MS changes during this stay- Etiology unclear, has had CT Abdomen, CT
   head [**1-16**] both which are unrevealing. Currently pts mental status is
   back at his baseline, A&O x3 and very appropriate and responsive.
   Patient may have had seizure during this episode vs apneic episode
   (could desaturation when he sleeps; monitors show when on back asleep
   he has 8sec apenic episodes and desats to the 70s).  ABG during
   unresponsive episode only showed mild hypercapnea with a normal pH.
   Neurology was consulted and getting EEG currently.  Additionally,
   infection may play role (CXR with possible retrocardiac opacity but no
   sputum, afebrile during hospital stay, no wbc, and culture data
   negative to date). Compazine given for nausea may also play a role.
   -Follow neurology recs- will continue EEG monitoring for add
l 24 hrs
    -F/u culture data
   - Hold sedating medications
   -Have stopped antibiotics as no sign of infection
   -Continue CPAP at night
   -Avoid narcotics
   #Tracheal Deviation on CXR- etiology unclear, per radiology recommended
   thyroid U/S and CT chest to better evaluate
   -TSH wnl
   - Follow up CT chest
   - Follow up thyroid ultrasound
   #. Nausea/Vomiting: Pt with nausea and vomiting. No evidence of new ECG
   changes, although some lateral twi.  Could be secondary to dialysis.
   CT-head negative .   CT Abdomen and LFTs unrevealing at this point
   -Erythromycin [**Hospital1 7**]
   - Avoid compazine as sedating and can cause MS changes
   # Scrotal pain: Significant scrotal edema, appreciate Urology
   evaluation, no evidence of ischemia or paraphymosis in this circumcised
   man. Evaluated by urology with no changes to plan
   - Scrotal elevation
   - Pain control
   # ANEMIA: No obvious source of bleeding, hemolysis labs negative.
   Patient has received 1 unit since ICU stay
   - Monitor
   # Chronic systolic heart failure: Will hold off on beta blockers for
   now, would start carvedilol at low dose if no further bradycardic
   episodes are observed
   -- Resume Norvasc, continue BB
   -- Discuss with renal if can start ACE
   # ESRD:
   - HD today
   - f/u renal recs
   # DM2: continue ISS
   # HTN:
   - continue metoprolol 12.5mg [**Hospital1 7**]
   - Start home Norvasc 5mg titrate prn
   - hydral IV prn for SBP >150
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 NAUSEA / VOMITING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CARDIAC ARREST
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines: d/c aline
   Dialysis Catheter - [**2165-1-14**] 07:45 PM
   Arterial Line - [**2165-1-14**] 07:58 PM
   20 Gauge - [**2165-1-17**] 02:00 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: not needed
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2165-01-18 10:48:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EEG - At [**2165-1-17**] 09:38 AM
   pt placed on a continuous eeg
   Tracheal deviation noted on CXR concerning for thyroid mass, CT and
   ultrasound pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-1-17**] 01:00 AM
   Erythromycin - [**2165-1-18**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-1-17**] 10:00 PM
   Other medications:
   lipitor, heparin s/c, insulin sliding scale, ASA 325, metoprolol 12.5
   [**Hospital1 **], calcium acetate, erythromycin, amlodipine held in the afternoon.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-18**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 78 (70 - 82) bpm
   BP: 160/59(95) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 91 kg
   Height: 64 Inch
             Total In:
                                                                    700 mL
                                                                    390 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    100 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                    280 mL
   Urine:
                                                                    680 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,980 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Absent, s/p Lt BKA.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   193 K/uL
   180 mg/dL
   5.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   49 mg/dL
   99 mEq/L
   140 mEq/L
   25.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2165-1-14**]  10:00 PM
                             [**2165-1-15**]  12:15 AM
                             [**2165-1-15**]  09:06 AM
                             [**2165-1-15**]  04:26 PM
                             [**2165-1-16**]  12:51 AM
                             [**2165-1-16**]  09:40 AM
                             [**2165-1-16**]  10:13 AM
                             [**2165-1-16**]  03:13 PM
                             [**2165-1-17**]  05:13 AM
                             [**2165-1-18**]  03:02 AM
   WBC
   6.9
   8.1
   9.9
   9.6
   9.0
   Hct
   22.7
   29.3
   29.3
   27.6
   27.2
   25.2
   Plt
   174
   194
   212
   218
   193
   Cr
   9.1
   9.5
   7.6
   5.3
   5.9
   TropT
   0.92
   0.93
   0.88
   TCO2
   23
   31
   34
   Glucose
   128
   135
   147
   194
   134
   180
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:541/7/0.88, ALT / AST:24/31, Alk Phos / T Bili:207/0.5,
   Amylase / Lipase:38/16, Differential-Neuts:86.8 %, Lymph:6.9 %,
   Mono:3.4 %, Eos:2.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:231 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Microbiology: micro data: sputum with gram negative rods.
   Assessment and Plan
 HYPERTENSION, BENIGN: will d/c a-line. continue norvasc (patient
   refused this last night), metoprolol
 ALTERED MENTAL STATUS (NOT DELIRIUM); hold any sedating medications,
   follow up EEG
 NAUSEA / VOMITING: improved on [**Last Name (LF) 12931**], [**First Name3 (LF) **] change to oral
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): tylenol prn, avoiding all
   opiates.
 ANEMIA, OTHER: hct stable.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): plans for
   -3L yoday with HD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2165-1-14**] 07:45 PM
   Arterial Line - [**2165-1-14**] 07:58 PM
   20 Gauge - [**2165-1-17**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan with the following modifications/emphasis:
   Overnight, did not tolerate CPAP
desaturates with oxygen off
   Vitals as above
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Labs: as above
   Assessment:
   1)       Unresponsive episodes
 see previous discussions
   2)       CHF
 still desaturates on room air
   3)       OSA
 failed bipap
   4)       ESRD
   Plan:
   1)       Continue aggressive dialysis
   2)       Given his tenuous condition, it would be ideal to improve
   oxygenation with HD such that he is not oxygen dependent when goes to
   floor as he knocks it off at night
   3)       Avoid all narcotics
   Time Spent: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2165-1-18**] 05:47 PM ------

2165-01-19 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-1-18**] 01:30 PM
   -CT Chest:not done [**1-22**] limited staff, non urgent
   -Thyroid U/S- not done b/c limited staff
   -Renal recs: plan for HD Monday; PPD plant for line on monday; will
   consider UF tomorrow
   -Neuro/EEG:not read
   -UE U/S:not done
   -PPD to be planted tonight; will need read on Sunday
   -Lots of secretions; if spikes will restart vanc/cefepime
   -Pt moving overnight; lost PIV: IV nurse to come attempt to place
   -Unable to get AM labs b/c poor access; plan for labs at HD
   -Never had apenic episodes; doesn't like CPAP mask; didn't get it or
   desat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-1-17**] 01:00 AM
   Erythromycin - [**2165-1-18**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-1-18**] 10:00 PM
   Hydralazine - [**2165-1-19**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 81 (72 - 96) bpm
   BP: 156/73(93) {132/55(73) - 174/86(101)} mmHg
   RR: 14 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 91 kg
   Height: 64 Inch
                  Total In:
                                                                  1,250 mL
                  PO:
                                                                  1,100 mL
                  TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                    160 mL
   Urine:
                                                                    505 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,255 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, L eye with cataracts
   Head, Ears, Nose, Throat: Normocephalic, edentulous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: clear
   Extremities: Right lower extremity edema: 2+, Left BKA+, improving
   scrotal edema
   Skin:  Warm
   GU: Improving scrotal edema, however some ulcerations around meatus
   have developed
   Neurologic: Attentive, A&O x3
   Labs / Radiology
   193 K/uL
   7.9 g/dL
   180 mg/dL
   5.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   49 mg/dL
   99 mEq/L
   140 mEq/L
   25.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2165-1-14**]  10:00 PM
                             [**2165-1-15**]  12:15 AM
                             [**2165-1-15**]  09:06 AM
                             [**2165-1-15**]  04:26 PM
                             [**2165-1-16**]  12:51 AM
                             [**2165-1-16**]  09:40 AM
                             [**2165-1-16**]  10:13 AM
                             [**2165-1-16**]  03:13 PM
                             [**2165-1-17**]  05:13 AM
                             [**2165-1-18**]  03:02 AM
   WBC
   6.9
   8.1
   9.9
   9.6
   9.0
   Hct
   22.7
   29.3
   29.3
   27.6
   27.2
   25.2
   Plt
   174
   194
   212
   218
   193
   Cr
   9.1
   9.5
   7.6
   5.3
   5.9
   TropT
   0.92
   0.93
   0.88
   TCO2
   23
   31
   34
   Glucose
   128
   135
   147
   194
   134
   180
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:541/7/0.88, ALT / AST:24/31, Alk Phos / T Bili:207/0.5,
   Amylase / Lipase:38/16, Differential-Neuts:86.8 %, Lymph:6.9 %,
   Mono:3.4 %, Eos:2.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:231 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   70 yo male with ESRD, CHF (EF 30%), DM2, here for [**Last Name (un) **] on CKD5 and
   hypoglycemia who is s/p PEA arrest now w/intermittent MS changes,
   pneumonia
   # MS changes during this stay- Etiology unclear, has had CT Abdomen, CT
   head [**1-16**] both which are unrevealing. Currently pts mental status is
   back at his baseline, A&O x3 and very appropriate and responsive.
   Patient may have had seizure during this episode vs apneic episode
   (could desaturation when he sleeps; monitors show when on back asleep
   he has 8sec apenic episodes and desats to the 70s).  ABG during
   unresponsive episode only showed mild hypercapnea with a normal pH.
   Neurology was consulted and getting EEG currently.  Additionally,
   infection may play role (CXR with possible retrocardiac opacity but no
   sputum, afebrile during hospital stay, no wbc, and culture data
   negative to date). Compazine given for nausea may also play a role.
   - Follow up EEG (pending)
    -F/u culture data
   - Hold sedating medications
   -Have stopped antibiotics as no sign of infection
   -does not tolerate CPAP, will discontinue
   -Avoid narcotics
   #Tracheal Deviation on CXR- etiology unclear, per radiology recommended
   thyroid U/S and CT chest to better evaluate
   -TSH wnl
   - Follow up CT chest- to be done today
   - Follow up thyroid ultrasound
   #. Nausea/Vomiting: Pt with nausea and vomiting. No evidence of new ECG
   changes, although some lateral twi.  Could be secondary to dialysis.
   CT-head negative .   CT Abdomen and LFTs unrevealing at this point. Now
   resolved.
   -Erythromycin [**Hospital1 7**]
   - Avoid compazine as sedating and can cause MS changes
   # Scrotal pain: Significant scrotal edema, appreciate Urology
   evaluation, no evidence of ischemia or paraphymosis in this circumcised
   man. Evaluated by urology with no changes to plan
   - Scrotal elevation
   - Pain control
   # ANEMIA: No obvious source of bleeding, hemolysis labs negative.
   Patient has received 1 unit since ICU stay
   - Monitor
   # Chronic systolic heart failure: Will hold off on beta blockers for
   now, would start carvedilol at low dose if no further bradycardic
   episodes are observed
   -- Resume Norvasc, continue BB
   -- Discuss with renal if can start ACE
   # ESRD:
   - HD Monday, ?  UF today
   - f/u renal recs
   # DM2: continue ISS
   # HTN:
   - continue metoprolol 12.5mg [**Hospital1 7**]
   - Start home Norvasc 5mg titrate prn
   - hydral IV prn for SBP >150
 IMPAIRED SKIN INTEGRITY
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 NAUSEA / VOMITING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANEMIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CARDIAC ARREST
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2165-1-14**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor

2165-01-19 09:08:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-1-18**] 01:30 PM.
   PPD placed, didnot get CT or ultrasound as it was not possible for him
   to travel due to nursing. No more apneic episodes, still O2 dependent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-1-17**] 01:00 AM
   Erythromycin - [**2165-1-18**] 09:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2165-1-19**] 12:10 AM
   Heparin Sodium (Prophylaxis) - [**2165-1-19**] 08:15 AM
   Other medications:
   lipitor, s/c heparin, asa, lopressor, insulin sliding scale, caclcium
   acetate, erythromycin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-19**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 81 (73 - 96) bpm
   BP: 173/84(105) {132/55(73) - 174/86(105)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.2 kg (admission): 91 kg
   Height: 64 Inch
                  Total In:
                                                                  1,250 mL
                                                                     80 mL
   PO:
                                                                  1,100 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                    245 mL
   Urine:
                                                                    505 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,255 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: L>R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: Absent, s/p LBKA
   Skin:  Not assessed, penile skin erosions
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   237 K/uL
   127 mg/dL
   4.4 mg/dL
   30 mEq/L
   8.9 mEq/L
   33 mg/dL
   98 mEq/L
   134 mEq/L
   26.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2165-1-15**]  12:15 AM
                             [**2165-1-15**]  09:06 AM
                             [**2165-1-15**]  04:26 PM
                             [**2165-1-16**]  12:51 AM
                             [**2165-1-16**]  09:40 AM
                             [**2165-1-16**]  10:13 AM
                             [**2165-1-16**]  03:13 PM
                             [**2165-1-17**]  05:13 AM
                             [**2165-1-18**]  03:02 AM
                             [**2165-1-19**]  06:43 AM
   WBC
   6.9
   8.1
   9.9
   9.6
   9.0
   10.1
   Hct
   22.7
   29.3
   29.3
   27.6
   27.2
   25.2
   26.6
   Plt
   174
   194
   212
   [**Telephone/Fax (3) 12944**]
   Cr
   9.1
   9.5
   7.6
   5.3
   5.9
   4.4
   TropT
   0.92
   0.93
   0.88
   TCO2
   31
   34
   Glucose
   135
   147
   194
   134
   180
   127
   Other labs: PT / PTT / INR:14.1/32.1/1.2, CK / CKMB /
   Troponin-T:541/7/0.88, ALT / AST:24/31, Alk Phos / T Bili:207/0.5,
   Amylase / Lipase:38/16, Differential-Neuts:86.8 %, Lymph:6.9 %,
   Mono:3.4 %, Eos:2.8 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:231 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY:
   barrier cream to the penis
 HYPERTENSION, BENIGN:
   needs better control will titrate up evening norvasc, continue bblocker
 ALTERED MENTAL STATUS (NOT DELIRIUM): resolved suspect this was in
   the setting of narcotics/compazine, + mild OSA. didnot tolerate CPAP
 NAUSEA / VOMITING: improved on erythromcyin
 ANEMIA, OTHER: minimize blood draws
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 Cough: some cough this am.. wil follow CT of chest that's to be
   obtained for his thyroid.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): Next HD
   monday per renal.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2165-1-14**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   No acute distress
   Normocephalic
   CV: RRR
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs: diminished
   Abd: Soft, Non-tender
   Ext: Rt: 3+ edema, Lt s/p BKA
 HYPERTENSION:
   -titrate meds to improve control
 ALTERED MENTAL STATUS:
   -resolved. Suspect was med related
 NAUSEA / VOMITING:
   -improved on erythromcyin
 ESRD
   -renal following
   -dialysis on Monday
   Remainder of plan per resident & fellow notes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2165-1-19**] 15:42 ------